US04029801
1-[2-(1,2,3,4-Tetrahydro-6-napthyl)-2-oxoethyl]-4-benzamidopiperidine
A solution of 6-chloroacetyl-1,2,3,4-tetrahydro napthalene (20.87 g.), 4-benzamidopiperidine (20.4 g.) and trimethylamine (11.1 g.) in dimethylformamide (200 ml.). was stirred for 3 days at room temperature. The crystals which had formed during this time were then filtered off, washed and dried. A portion of this crystalline solid (4.0 g.) was dissolved in ethanol (50 ml.) and acidified with ethanol hydrogen chloride to give 4.0 g. of the hydrochloride of the title compound, m.p. 270° C. (decomp.). (Found: C, 69.5; H, 7.2; N, 6.8; C24H28N2O2.HCl requires C, 69.8; H, 7.1; N, 6.8%).

reactant | 6-chloroacetyl-1,2,3,4-tetrahydro napthalene | 20.87 g | ClCC(=O)C=1C=C2CCCCC2=CC1 | C12H13ClO
reactant | 4-benzamidopiperidine | 20.4 g | C(C1=CC=CC=C1)(=O)NC1CCNCC1 | C12H16N2O
reactant | trimethylamine | 11.1 g | CN(C)C | C3H9N
reactant | hydrochloride | Cl | ClH
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 1-[2-(1,2,3,4-Tetrahydro-6-napthyl)-2-oxoethyl]-4-benzamidopiperidine | C1CCCC2=CC(=CC=C12)C(CN1CCC(CC1)NC(C1=CC=CC=C1)=O)=O | C24H28N2O2
